US04897420
Bis[6-(4-methoxyphenyl)hexanoyl]peroxide (3.6 g) is added portionwise to a solution of 2,3-dimethoxy-5-methyl-1,4-benzoquinone (1.48 g) in acetic acid (30 ml) with stirring at 95° C. The mixture is heated for an hour and the acetic acid is distilled off under reduced pressure. The residue is diluted with water and extracted with ether. The ether extract is washed with water, dried and concentrated under reduced pressure. The residue is subjected to silica gel column chromatography to give 0.46 g of 2,3-dimethoxy-6-[5-(4-methoxyphenyl)pentyl]-5-methyl-1,4-benzoquinone as an orange oil.

reactant | Bis[6-(4-methoxyphenyl)hexanoyl]peroxide | 3.6 g | COC1=CC=C(C=C1)CCCCCC(=O)OOC(CCCCCC1=CC=C(C=C1)OC)=O | C26H34O6
reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 1.48 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2,3-dimethoxy-6-[5-(4-methoxyphenyl)pentyl]-5-methyl-1,4-benzoquinone | 0.46 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCC1=CC=C(C=C1)OC)=O | C21H26O5
